US04640915
A mixture of 4-nitrobenzyl (5R, 6S)-6-(1-methoxy-1-methylethyl)-7-oxo-3-(4-pyridylthio)-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (371.0 mg) and platinum (IV) oxide (123.7 mg) in a mixture of dioxane (44.5 ml), 0.1M aqueous dipotassium hydrogen phosphate (23.7 ml), water (5.98 ml) and ethanol (3.71 ml) was shaken for an hour under a hydrogen atmosphere (50 psi) at ambient temperature. The reaction mixture was filtered using super cell. The filter cake was washed with water, and the combined filtrates were concentrated. The residual aqueous layer was washed three times with diethyl ether at 0° C. and concentrated. After addition of potassium chloride (9 g), the resultant aqueous solution (180 ml) was chromatographed on non-ionic adsorption resin "Diaion HP-20 AG" (24×300 mm) eluting successively with water (420 ml), 5% aqueous isopropyl alcohol (420 ml) and 10% aqueous isopropyl alcohol (420 ml). The fractions, whose UV spectrum showed λ max 303 nm, were collected, concentrated and lyophilized to give potassium (5R, 6S)-6-(1-methoxy-1-methylethyl)-7-oxo-3-(4-pyridylthio)-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (208.7 mg) as a white powder.

reactant | 4-nitrobenzyl (5R, 6S)-6-(1-methoxy-1-methylethyl)-7-oxo-3-(4-pyridylthio)-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 371.0 mg | COC(C)(C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])SC1=CC=NC=C1 | C23H23N3O6S
reactant | dipotassium hydrogen phosphate | 0.1M, 23.7 ml | P(=O)(O)([O-])[O-].[K+].[K+]
reactant | water | 5.98 ml | O | H2O
reactant | ethanol | 3.71 ml | C(C)O | C2H6O
solvent | dioxane | 44.5 ml | O1CCOCC1 | C4H8O2
catalyst | platinum (IV) oxide | 123.7 mg | [Pt](=O)=O
product | potassium (5R, 6S)-6-(1-methoxy-1-methylethyl)-7-oxo-3-(4-pyridylthio)-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 208.7 mg | COC(C)(C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)[O-])SC1=CC=NC=C1.[K+] | InChI=1S/C16H18N2O4S.K/c1-16(2,22-3)12-10-8-11(23-9-4-6-17-7-5-9)13(15(20)21)18(10)14(12)19;/h4-7,10,12H,8H2,1-3H3,(H,20,21);/q;+1/p-1/t10-,12-;/m1./s1
